US09290451B2
b) 6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid ((S)-1-aminomethyl-3-methyl-butyl)-amide
6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid ((S)-1-azidomethyl-3-methyl-butyl)-amide (107 mg, 277 μmol) was combined with 2-propanol (725 μl) to give an off-white suspension. To this suspension was added triethylamine (56.0 mg, 77.2 μl, 554 μmol), 1,3-propanedithiol (3.00 mg, 2.8 μl, 27.7 μmol) and sodium borohydride (15.7 mg, 415 μmol). The resulting reaction mixture was stirred at room temperature for 20 hours. Volatiles were removed in vacuo and the residue was stirred with 10% citric acid solution (5 mL) and a mixture of ethyl acetate/heptane (5 mL, 1:1). The aqueous layer was brought with 2N NaOH to pH=12 and extracted twice with ethyl acetate. The organic phases were combined, dried with Na2SO4, and concentrated in vacuo to give the title compound (32 mg, 32%) as colorless, viscous oil that was used without further purification in the next step; MS (ESI) 361.3 (M+H)+.

reactant | 6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid ((S)-1-azidomethyl-3-methyl-butyl)-amide | 277 μmol, 107 mg | N(=[N+]=[N-])C[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)N1CCCC1)OCC1CC1 | C20H30N6O2
reactant | triethylamine | 554 μmol, 77.2 μl, 56.0 mg | C(C)N(CC)CC | C6H15N
reactant | 1,3-propanedithiol | 27.7 μmol, 2.8 μl, 3.00 mg | C(CCS)S | C3H8S2
reactant | sodium borohydride | 415 μmol, 15.7 mg | [BH4-].[Na+]
solvent | 2-propanol | 725 μl | CC(C)O | C3H8O
product | 6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid ((S)-1-aminomethyl-3-methyl-butyl)-amide | 32 mg, 32% | NC[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)N1CCCC1)OCC1CC1 | C20H32N4O2
